US07393868B2
6-(Propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-2-carboxylic acid
Heat the mixture of 6-(propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-2-carboxylic acid methyl ester (46 mg, 0.08 mmol) and LiOH (30 mg, 1.25 mmol) in 3 ml of THF/Methanol/water (3/2/1, v/v/v) to 60 C for 3 h. Remove solvent and dissolve in water (35 mL). Wash with methylene chloride (2×20 mL). Neutralize the aq. solution to a pH between 2 and 3. Further purification with flash chromatography affords the title compound. MS (m/e): 521.1(M−1).

reactant | 6-(propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-2-carboxylic acid methyl ester | 0.08 mmol, 46 mg | COC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C(C)C)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C24H28N2O6S3
reactant | LiOH | 1.25 mmol, 30 mg | [Li+].[OH-]
solvent | THF Methanol water | 3 ml | C1CCOC1.CO.O
solvent | water | 35 mL | O | H2O
product | 6-(Propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-2-carboxylic acid | CC(C)S(=O)(=O)NC=1C=CC=C(C1C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)C(=O)O | C23H26N2O6S3
